US05135947
B. 1-Carboxy-1-phenyl-3-(4-methyl-1-naphthalenyloxy)propane
To a 1 1. three-neck round bottom flask fitted with a thermometer, nitrogen inlet tube, addition funnel and magnetic stirrer was added 5.9 g (43.6 mmol) of phenylacetic acid and 250 ml of tetrahydrofuran. To the mixture was added 7.6 ml (43.6 mmol) of HMPA. The mixture was cooled to approximately 0° C. and 6.4 ml (89.4 mmol) of 1.48M n-butyllithium was added dropwise to the reaction mixture. The mixture was warmed to room temperature over a period of approximately 50 minutes and cooled to approximately -78° C. To the reaction mixture was added a solution of 2-(4-methyl-1-naphthalenyloxy)ethyl chloride dissolved in 100 ml of THF. The reaction mixture was stirred at room temperature overnight and diluted with water. The mixture was washed twice with diethyl ether and the resulting aqueous phase was acidified. The aqueous phase was extracted twice with diethyl ether and the organic extracts were combined, washed twice with water, once with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The volatile constituents were evaporated under vacuum to provide 9.53 g of a light tan solid. The solid was recrystallized from diethyl ether and hexane to provide 5.62 g of the desired product. mp=130°-131.5° C.

reactant | phenylacetic acid | 43.6 mmol, 5.9 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | HMPA | 43.6 mmol, 7.6 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | n-butyllithium | 89.4 mmol, 1.48M, 6.4 ml | C(CCC)[Li]
reactant | 2-(4-methyl-1-naphthalenyloxy)ethyl chloride | CC1=CC=C(C2=CC=CC=C12)OCCCl | C13H13ClO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-Carboxy-1-phenyl-3-(4-methyl-1-naphthalenyloxy)propane | 9.53 g | C(=O)(O)C(CCOC1=CC=C(C2=CC=CC=C12)C)C1=CC=CC=C1 | C21H20O3
